US05840751
The 5-oxo-5-phenylpentanoic acid benzyl-methyl amide was prepared by refluxing N-methylbenzylamine (10.5 mmol) and 6-phenyl-3,4-dihydro-pyran-2-one (10.5 mmol) in toluene for one hour. The reaction was allowed to stir overnight at room temperature. It was poured into 100 mL of ethyl acetate and 100 mL of IN HCl. The organic extracts were washed with 100 mL of 1N NaOH, 100 mL of water and dried over MgSO4. The crude product was flash chromatographed (CH2Cl2 /MeOH 98/2) to afford a liquid. 1H NMR (CDCl3) δ 2.0-2.2 (m, 2 H), 2.5 (t, 2 H), 2.93/2.96 (s/s, 3 H), 3.0-3.2 (m, 2 H), 4.5/4.6 (s/s, 2 H),7.1-7.6 (m, 8 H), 7.8-8.0 (m, 2 H).

reactant | N-methylbenzylamine | 10.5 mmol | CNCC1=CC=CC=C1 | C8H11N
reactant | 6-phenyl-3,4-dihydro-pyran-2-one | 10.5 mmol | C1(=CC=CC=C1)C1=CCCC(O1)=O | C11H10O2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | HCl | Cl | ClH
product | 5-oxo-5-phenylpentanoic acid benzyl-methyl amide | C(C1=CC=CC=C1)N(C(CCCC(C1=CC=CC=C1)=O)=O)C | C19H21NO2
